US07777047B2
ethyl (2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate
A solution of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (4.3 g), ethyl but-2-ynoate (3.2 mL) and tributylphosphine (3.2 mL) in tetrahydrofuran (40 mL)-toluene (40 mL) was stirred at room temperature for 2 days. ethyl but-2-ynoate (1.6 mL) was added to the reaction solution again, and the mixture was stirred at 60° C. for 2 hr. The reaction solution was concentrated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=2:8-4:6) to give the title compound (1.6 g, yield: 28%) as a pale-brown oil.

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 4.3 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(N)=S | C13H11N3O2S3
reactant | ethyl but-2-ynoate | 3.2 mL | C(C#CC)(=O)OCC | C6H8O2
reactant | tributylphosphine | 3.2 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl but-2-ynoate | 1.6 mL | C(C#CC)(=O)OCC | C6H8O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | ethyl (2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 1.6 g, yield: 28% | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC | C19H19N3O4S3
